US09034866B2
10-Bromo-9-fluoro-3-iodo-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide (0.2 g) was reacted with potassium methyltrifluoroborate similar to as described in Example 5 to give 20 mg of 10-bromo-9-fluoro-3-methyl-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide after reverse phase hplc purification. This intermediate was reacted with 2-Methyl-3-butyne-ol similar to as described in Procedure E to afford 17.4 mg of 9-fluoro-3-[(2-fluorophenyl)methyl]-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide following reverse phase hplc purification. MS (Q1) 344 (M)+. 1H NMR (400 MHz, DMSO) δ 8.55 (dd, J=8.5, 3.5 Hz, 1H), 7.48 (s, 1H), 6.98 (d, J=10.5 Hz, 2H), 5.49 (s, 1H), 4.63-4.36 (m, 2H), 4.35-4.24 (m, 2H), 1.49 (s, 6H).

reactant | 10-Bromo-9-fluoro-3-iodo-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | 0.2 g | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)I)C1)F | C12H8BrFIN3O2
reactant | potassium methyltrifluoroborate | C[B-](F)(F)F.[K+]
product | 10-bromo-9-fluoro-3-methyl-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | 20 mg | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C)C1)F | C13H11BrFN3O2
